US05268388
Step B: methyl-5-chloro-2,3-dihydro-2-methyl-1-oxo-1H-indene-2-carboxylate
To a mixture of 8.0 g of 5-chloroindanone and 4.2 ml of dimethylcarbonate in 60 ml of THF was added 4.0 g of 60% NaH and the mixture was heated to reflux under N2 overnight. After this time the reaction was cooled to room temperature and 4.0 ml of methyl iodide was added and the mixture was reheated to reflux overnight. The reaction was then cooled and partitioned between ether and 5% aqueous NaHCO3 and the aqueous extracts were washed twice with ether. The combined aqueous extracts were dried over MgSO4 and concentrated to 11.24 g of a brown oil. Chromatogrpahy on silica gel (10% ethyl acetate/hexane) afforded 4.25 g of the title compound as a brown oil.

reactant | 5-chloroindanone | 8.0 g | ClC=1C=C2CCC(C2=CC1)=O | C9H7ClO
reactant | dimethylcarbonate | 4.2 ml | COC(OC)=O | C3H6O3
reactant | NaH | 4.0 g | [H-].[Na+]
reactant | methyl iodide | 4.0 ml | CI | CH3I
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | methyl-5-chloro-2,3-dihydro-2-methyl-1-oxo-1H-indene-2-carboxylate | 4.25 g | COC(=O)C1(C(C2=CC=C(C=C2C1)Cl)=O)C | C12H11ClO3
